US07598264B2
4-methoxy-6-(4-methoxybenzyl)-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
To a solution of 3-hydroxy-4-methoxy-6-(4-methoxybenzyl)-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide (5.00 g) in DMF (50 mL) was added magnesium methylate (14.3 mL of a 6-10% methanol solution), and the reaction was heated to 50° C. for 1 hour. The reaction was treated with iodomethane (17.66 mL) and allowed to stir at 50 degrees for 1.5 hours. The reaction was quenched with 15 mL 10% aq KHSO4 and concentrated in vacuo to remove the methanol. The mixture was diluted with 300 mL chloroform and the phases were separated. The aqueous layer was washed twice more with chloroform. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The remaining solid was purified on an Isco automated system affixed with a Biotage Flash 40 (L) (120 g) cartridge eluted with 0-10% MeOH in EtOAc over 20 minutes and hold at 10% MeOH for 45 minutes. The product eluted last, pure by HPLC/MS and NMR.

reactant | 3-hydroxy-4-methoxy-6-(4-methoxybenzyl)-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide | 5.00 g | OC=1N=C(C=2CCN(C(C2C1OC)=O)CC1=CC=C(C=C1)OC)C(=O)N(C)C | C20H23N3O5
reactant | magnesium methylate | C[O-].C[O-].[Mg+2]
reactant | methanol | CO | CH4O
reactant | iodomethane | 17.66 mL | IC | CH3I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-methoxy-6-(4-methoxybenzyl)-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | COC=1C(N(C(=C2CCN(C(C12)=O)CC1=CC=C(C=C1)OC)C(=O)N(C)C)C)=O | C21H25N3O5
